US04788185
(43-1) 6-Carbamoylimidazo[1,2-a]pyridine
To 100 ml of ethanol are added 10 g of 6-aminonicotinamide, 11 g of 40% chloroacetaldehyde and 12.5 g of sodium hydrogen carbonate and the mixture is heated under reflux for 4 hours. Ethanol is evaporated off and 100 ml of water is added to the residue. The mixture is adjusted to pH 10 by adding 10% aqueous sodium hydroxide solution and then extracted four times with 50 ml portions of a mixture solvent of tetrahydrofuran-ethyl acetate (1:1). The extracts are combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue is recrystallized from a mixture solvent of methanol-diethyl ether to give 3.5 g of the above-identified compound as colorless needles.

reactant | 6-aminonicotinamide | 10 g | NC1=NC=C(C(=O)N)C=C1 | C6H7N3O
reactant | chloroacetaldehyde | 11 g | ClCC=O | C2H3ClO
reactant | sodium hydrogen carbonate | 12.5 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-Carbamoylimidazo[1,2-a]pyridine | 3.5 g | C(N)(=O)C=1C=CC=2N(C1)C=CN2 | C8H7N3O
